US05506235
4-Hydroxy-6-nitro-2-phenylquinoline (10.00 g, 38 mmol) was suspended in phosphorus oxychloride (POCl3) (57.58 g, 380 Mol) at 0° C. Dimethylformamide (DMF) (45 ml) was added dropwise and the resulting mixture heated at 70° C. for 5 hours. The reaction was cooled and then poured onto ice. The pH was adjusted to 6 with aqueous sodium hydroxide and the precipitate collected by vacuum filtration and dried in a vacuum oven to give 4-chloro-6-nitro-2-phenylquinoline (10.95 g, 102%) as a yellow powder.

reactant | 4-Hydroxy-6-nitro-2-phenylquinoline | 38 mmol, 10.00 g | OC1=CC(=NC2=CC=C(C=C12)[N+](=O)[O-])C1=CC=CC=C1 | C15H10N2O3
reactant | phosphorus oxychloride | 380 Mol, 57.58 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 4-chloro-6-nitro-2-phenylquinoline | 10.95 g, 102% | ClC1=CC(=NC2=CC=C(C=C12)[N+](=O)[O-])C1=CC=CC=C1 | C15H9ClN2O2
